US07342039B2
To a solution of 6-hydroxy-4′-trifluoromethyl-biphenyl-3-carboxylic acid methyl ester (1.20 g, 4.05 mmol) and 1,3-dibromopropane (4.09 g, 20.3 mmol) in acetone (125 mL) was added potassium carbonate (2.80 g, 20.3 mmol). The reaction mixture was heated to reflux for 3 hours and allowed to cool back down to room temperature. The mixture was partitioned between ethyl acetate and brine, and the layers were separated. The aqueous layer was extracted with one additional portion of ethyl acetate. The organics were combined, dried over anhydrous magnesium sulfate, filtered and concentrated under reduced pressure. The crude oil was purified by flash chromatography through silica gel using ethyl acetate/hexanes (0/100 gradient to 9/91) to give 6-(3-bromo-propoxy)-4′-trifluoromethyl-biphenyl-3-carboxylic acid methyl ester (1.23 g, 73%) as a white powder. 1H NMR (400 MHz, CDCl3); δ 8.03 (d, 1H), 7.99 (s, 1H), 7.61 (AA′BB′, 4H), 7.02 (d, 1H), 4.18 (t, 2H), 3.88 (s, 3H), 3.43 (t, 2H), 2.23 (m, 2H).

reactant | 6-hydroxy-4′-trifluoromethyl-biphenyl-3-carboxylic acid methyl ester | 4.05 mmol, 1.20 g | COC(=O)C=1C=C(C(=CC1)O)C1=CC=C(C=C1)C(F)(F)F | C15H11F3O3
reactant | 1,3-dibromopropane | 20.3 mmol, 4.09 g | BrCCCBr | C3H6Br2
reactant | potassium carbonate | 20.3 mmol, 2.80 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetone | 125 mL | CC(=O)C | C3H6O
product | 6-(3-bromo-propoxy)-4′-trifluoromethyl-biphenyl-3-carboxylic acid methyl ester | 1.23 g, 73% | COC(=O)C=1C=C(C(=CC1)OCCCBr)C1=CC=C(C=C1)C(F)(F)F | C18H16BrF3O3
